US05204326
Preparation of Boc-Val-Leu-Gly-OH
7.3 Grams of Boc-Val-Leu-Gly-OEt was dissolved in 50 ml of ethanol. Thereto was added 20 ml of 1N aqueous sodium hydroxide solution with ice-cooling, and the mixture was stirred for 1 hour. The reaction mixture was adjusted to pH 7 with 1N hydrochloric acid and concentrated under reduced pressure. The residue was washed with diethyl ether. The aqueous layer was adjusted to pH 2 with 1N hydrochloric acid with ice-cooling and extracted with three 60-ml portions of ethyl acetate. The organic layers were combined, washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The resulting solution was concentrated under reduced pressure to remove ethyl acetate. The residue was mixed with petroleum ether to crystallize the residue, whereby 5.33 g (yield: 78.4%) of the objective compound was obtained.

reactant | Boc-Val-Leu-Gly-OEt | N([C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C20H37N3O6
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Boc-Val-Leu-Gly-OH | 5.33 g, yield: 78.4% | N([C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C18H33N3O6
